US09422238B2
(5-bromo-1-octyl-1H-indol-3-ylmethyl)ethylamine (2)
To a stirred solution of 5-bromo 1-octyl 1H-indole (2 mmol) in acetic acid (10 ml) was added formaldehyde (0.5 ml) and diethyl amine (4 mmol), reaction was stirred at RT overnight, reaction were monitored by TLC. Reaction was quenched by methylene chloride 20 ml, and 15 ml of water and pH was adjusted to 9 using 1N NaOH solution. Added more methylene chloride and organic layer was washed with water. Combined organic layer was washed with brine, dried (Na2SO4) and concentrated under reduced pressure to obtain the crude residue. The crude material was purified by column chromatography in chloroform and Methanol solvent system to get oily product. Product was confirmed by LC-MS and NMR. Yield 40 to 60%.

reactant | 5-bromo 1-octyl 1H-indole | 2 mmol | BrC=1C=C2C=CN(C2=CC1)CCCCCCCC | C16H22BrN
reactant | formaldehyde | 0.5 ml | C=O | CH2O
reactant | diethyl amine | 4 mmol | C(C)NCC | C4H11N
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (5-bromo-1-octyl-1H-indol-3-ylmethyl)ethylamine | Yield 40 to 60% | BrC=1C=C2C(=CN(C2=CC1)CCCCCCCC)CNCC | C19H29BrN2
